US07855218B2
(5R)-5-{3-[(phenylmethyl)oxy]phenyl}-L-prolinamide hydrochloride (E24)
To a solution of 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-{3-[(phenylmethyl)oxy]phenyl}-1-pyrrolidinecarboxylate (D54, 142 mg, 0.358 mmol) in a mixture of ethyl acetate (2.3 ml) and methanol (0.23 ml) was added acetyl chloride (64 μl, 2.5 eq) at 0° C. The mixture was shaken for 1.5 h and slowly allowed to warm to room temperature. After evaporating the solvent, the residue was triturated with diethyl ether to afford the title compound as a white solid (71 mg, 60%); Rt (HPLC): 3.51 min. MS: (ES/+) m/z: 297 [MH+], C18H20N2O2 requires 296; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.52 (br. s., 1H), 8.41 (br. s., 1H), 8.03 (s, 1H), 7.73 (s, 1H), 7.31-7.50 (m, 6H), 7.26 (t, 1H), 7.10 (d, 1H), 7.06 (dd, 1H), 5.13 (s, 2H), 4.62 (dd, 1H), 4.32 (dd, 1H), 2.24-2.44 (m, 2H), 2.09-2.23 (m, 1H), 1.93-2.09 (m, 1H).

reactant | 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-{3-[(phenylmethyl)oxy]phenyl}-1-pyrrolidinecarboxylate | 0.358 mmol, 142 mg | NC(=O)[C@H]1N([C@H](CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O4
reactant | acetyl chloride | 64 μl, 2.5 eq | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 2.3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.23 ml | CO | CH4O
product | (5R)-5-{3-[(phenylmethyl)oxy]phenyl}-L-prolinamide hydrochloride | 71 mg, 60% | Cl.C1(=CC=CC=C1)COC=1C=C(C=CC1)[C@H]1CC[C@H](N1)C(=O)N | InChI=1S/C18H20N2O2.ClH/c19-18(21)17-10-9-16(20-17)14-7-4-8-15(11-14)22-12-13-5-2-1-3-6-13;/h1-8,11,16-17,20H,9-10,12H2,(H2,19,21);1H/t16-,17+;/m1./s1
